US07964643B2
4′-Dimethylaminobiphenyl-4-sulfonic acid-(5-hydroxypentyl)-amide (ABD-276)
Using a method analogous to that described in Example 40, 4-bromophenyl-sulfonic acid-(5-hydroxypentyl)-amide and 4-dimethylaminophenyl boronic acid were reacted to give the title compound as a white solid. δC (DMSO, 62.9 MHz): 22.7, 28.9, 32.0, 39.9, 42.6, 60.5, 112.6, 125.5, 125.8, 127.1, 127.8, 137.5, 143.9 and 150.5.

reactant | 4-bromophenyl-sulfonic acid-(5-hydroxypentyl)-amide | OCCCCCNS(=O)(=O)C1=CC=C(C=C1)Br | C11H16BrNO3S
reactant | 4-dimethylaminophenyl boronic acid | CN(C1=CC=C(C=C1)B(O)O)C | C8H12BNO2
product | 4′-Dimethylaminobiphenyl-4-sulfonic acid-(5-hydroxypentyl)-amide | OCCCCCNS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)N(C)C | C19H26N2O3S
